US05441955
2-Fluoroindolo[2,1-b]quinazoline-6,12-dione
Using the procedure in Example 12, and substituting 5-fluoroisatoic anhydride for 5-chloroisatoic anhydride and isatin for 5-fluoroisatin gave 650 mg (57%) of the title compound: mp 295° C. (dec); 1H NMR (DMSO-d6) δ 7.48-7.54 (m, 1H), 7.82-7.94 (m, 3H), 8.02-8.08 (m, 2H), 8.46-8.51 (m, 1H); MS (M+H)+ 267.1.

reactant | 5-chloroisatoic anhydride | ClC1=CC=C2C(C(=O)OC(N2)=O)=C1 | C8H4ClNO3
reactant | isatin | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | 5-fluoroisatin | FC=1C=C2C(C(NC2=CC1)=O)=O | C8H4FNO2
product | 2-Fluoroindolo[2,1-b]quinazoline-6,12-dione | 650 mg, 57% | FC=1C=C2C(N3C(=NC2=CC1)C(C1=CC=CC=C13)=O)=O | C15H7FN2O2
